US03931204
Preparation of 2,4-diethoxy-thieno[3,4-d]pyrimidine.
A solution of 0.06 mole sodium ethylate in ethyl alcohol is added dropwise while cooling to a suspension of 6.15 g (0.03 mole) of 2,4-dichloro-thieno[3,4-d]pyrimidine in 100 ml absolute ethyl alcohol. The speed of addition is regulated in such a way that the temperature of the reaction medium is maintained at between 0° and 5°C. When addition is completed, the solution is left to rise to room temperature and is then heated under reflux for 4 hours. It is then evaporated to dryness. The remaining solid is drained, washed with water and left to dry. AFter recrystallization from a 50/50 mixture of ethyl alcohol and water, 2.8 g (42% of theory) of 2,4-diethoxy-thieno[3,4-d]pyrimidine are obtained. M.P. 84°-86°C.

reactant | sodium ethylate | 0.06 mole | CC[O-].[Na+]
reactant | 2,4-dichloro-thieno[3,4-d]pyrimidine | 0.03 mole, 6.15 g | ClC=1N=C(C=2C(N1)=CSC2)Cl | C6H2Cl2N2S
reactant | ethyl alcohol | C(C)O | C2H6O
reactant | ethyl alcohol | 100 ml | C(C)O | C2H6O
product | 2,4-diethoxy-thieno[3,4-d]pyrimidine | C(C)OC=1N=C(C=2C(N1)=CSC2)OCC | C10H12N2O2S
